US06391874B1
(4-Benzyloxy-phenyl)-(-6-(3-methylisoxazol-5-yl)-quinazolin-4-yl)-amine hydrochloride
A stirred mixture of (4-benzyloxy-phenyl)-(6-ethynylquinazolin-4-yl)-amine (0.20 g, 0.57 mmol), nitroethane (0.20 g, 2.7 mmol), phenylisocyanate (0.15 ml, 0.164 g, 1.38 mmol), and triethylamine (3 drops) in a mixture of ethyl acetate (10 ml) and dichloromethane (5 ml) was heated at reflux for 18 hours. After cooling the mixture was filtered to remove solid, and the concentrated filtrate was purified by silica gel chromatography, eluting with 50% ethyl acetate/i-hexane. After concentration of the appropriate fractions, the material obtained was treated with methanolic HCl, the solvent was removed in vacuo and the residue was triturated with ether to give the title compound as a yellow solid (0.027 g, 0.061 mmol, 11%); δH [2H6]DMSO 12.0 (1H,s), 9.55 (1H,s), 8.91 (1H,s), 8.48 (1H,d), 8.03 (1H,d), 7.68 (2H,d), 7.32-7.55 (5H,m), 7.22 (1H,s), 7.15 (2H,d), 5.18 (2H,s), 2.35 (3H,s); m/z (M+1+) 409.

reactant | (4-benzyloxy-phenyl)-(6-ethynylquinazolin-4-yl)-amine | 0.57 mmol, 0.20 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C#C | C23H17N3O
reactant | nitroethane | 2.7 mmol, 0.20 g | [N+](=O)([O-])CC | C2H5NO2
reactant | phenylisocyanate | 1.38 mmol, 0.15 ml, 0.164 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | HCl | Cl | ClH
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4-Benzyloxy-phenyl)-(-6-(3-methylisoxazol-5-yl)-quinazolin-4-yl)-amine hydrochloride | 0.061 mmol, 0.027 g, 11% | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC(=NO1)C | InChI=1S/C25H20N4O2.ClH/c1-17-13-24(31-29-17)19-7-12-23-22(14-19)25(27-16-26-23)28-20-8-10-21(11-9-20)30-15-18-5-3-2-4-6-18;/h2-14,16H,15H2,1H3,(H,26,27,28);1H
